US09227970B2
A mixture of tert-butyl 2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamate (363 mg, 1.14 mmol) and hydrochloric acid (5M in diethyl ether, 24.0 g, 20 ml, 100 mmol) was stirred for 5 hours at 25° C. and then the solvent was evaporated under reduced pressure. The light yellow residue was made alkaline using sodium hydroxide solution (2 M in water). The mixture was extracted 2 times with ethyl acetate, the organic layers were combined, washed with water and brine, dried over magnesium sulfate, filtrated and evaporated to dryness, affording 2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylamine (227 mg, 91%) as grey solid. Mp.: 165° C. MS: m/z=220.1 (M+H+).

reactant | tert-butyl 2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamate | 1.14 mmol, 363 mg | N1(CCOCC1)C1=NN2C(C=CC(=C2)NC(OC(C)(C)C)=O)=N1 | C15H21N5O3
reactant | hydrochloric acid | 100 mmol, 5M, 20 ml, 24.0 g | Cl | ClH
product | 2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylamine | 227 mg, 91% | N1(CCOCC1)C1=NN2C(C=CC(=C2)N)=N1 | C10H13N5O
